US06753391B1
Preparation of 2-(1-Bromoethyl)-4,4-dimethyl-4H-oxazol-5-one
To a stirring mixture of 2-(2-bromo-propionylamino)-2-methyl-propionic acid (50.0 g; 0.21 mol), triethylamine (23.37 g; 0.23 mol) and 150 mL acetone, cooled with an ice bath, was added a solution of ethyl chloroformate (25.07 g; 0.23 mol) in 40 mL acetone over a period of 10 minutes. The reaction mixture was then allowed to warm to room temperature and was stirred for 2 hours. The mixture was then filtered, and the solid was washed with 150 mL ether. The combined filtrate was concentrated under vacuum. Ether (100 mL) was added to the residue, and the mixture was filtered. After removal of the solvent under vacuum, the filtrate residue was distilled under reduced pressure (63-64° C.; 1 mmHg) to give 34.73 g (75%) of a colorless oil.

reactant | 2-(2-bromo-propionylamino)-2-methyl-propionic acid | 0.21 mol, 50.0 g | BrC(C(=O)NC(C(=O)O)(C)C)C | C7H12BrNO3
reactant | triethylamine | 0.23 mol, 23.37 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.23 mol, 25.07 g | ClC(=O)OCC | C3H5ClO2
solvent | acetone | 40 mL | CC(=O)C | C3H6O
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | 2-(1-Bromoethyl)-4,4-dimethyl-4H-oxazol-5-one | 34.73 g, 75% | BrC(C)C=1OC(C(N1)(C)C)=O | C7H10BrNO2
